US07319104B2
Ethyl 2-[4-(2-{(5-formylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate
A solution of ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]propanoate (3.0 g; 7.05 mmol) in 8 ml of DMF was treated with 6-chloronicotinaldehyde (0.91 g; 6.42 mmol) and K2CO3 (0.97 g; 7.05 mmol). The reaction mixture was heated at 150C for 4 hr. Upon cooling, the mixture was partitioned between ethyl acetate and 0.05N HCl. The organic phase was washed with 0.05N HCl and brine, dried over sodium sulfate, filtered and concentrated. Purification by flash chromatography using ethyl acetate-hexane mixtures (5–50%) afforded the title compound (2.3 g; 68% yield).

reactant | ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]propanoate | 7.05 mmol, 3.0 g | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)CCNCC1=CC=C(C=C1)OC(F)(F)F | C22H26F3NO4
reactant | 6-chloronicotinaldehyde | 6.42 mmol, 0.91 g | ClC1=NC=C(C=O)C=C1 | C6H4ClNO
reactant | K2CO3 | 7.05 mmol, 0.97 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | Ethyl 2-[4-(2-{(5-formylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 2.3 g, 68% yield | C(=O)C=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)OC(F)(F)F | C28H29F3N2O5
